US08314138B2
To a solution of 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (0.1 g, 0.30 mmol) in methylene chloride (5 mL) was added 4-fluoro benzyl amine (0.04 g, 0.33 mmol), benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate (BOP reagent, 0.146 g, 0.33 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.60 mmol) and the mixture was stirred under nitrogen at room temperature for 16 hr. The reaction mixture was diluted with methylene chloride (50 mL), washed with water (50 mL) and brine (2×50 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (hexanes:ethyl acetate, 1:1) to provide 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (83 mg, 62% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.30 (m, 2H), 7.14 (d, J=4.0 Hz, 1H), 6.92-7.07 (m, 6H), 6.72 (d, J=4.0 Hz, 1H), 6.06 (bs, 1H), 4.58 (d, J=4.0 Hz, 2H), 4.34 (t, J=8.0 Hz, 2H), 3.16 (t, J=8.0 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=439.1; Rt=1.55 min; HRMS (M+H)+=439.14.

reactant | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid | 0.30 mmol, 0.1 g | FC1=CC=C(C=C1)CCN1N=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C16H14FN3O2S
reactant | 4-fluoro benzyl amine | 0.33 mmol, 0.04 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate | 0.33 mmol, 0.146 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.60 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 83 mg, 62% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NN(C=C2)CCC2=CC=C(C=C2)F)C)C=C1 | C23H20F2N4OS
